US07129364B2
Preparation of 2-furfuryl-1,3-dithiane—Furfural (40 mL, 0.4825 mol) was dissolved in CHCl3 (400 mL) and cooled to 0° C. (ice bath) with 1,3-propanedithiol (48.5 mL, 0.482 mol, 1 eq) and a catalytic amount of TMSCl (3 pipets full). The reaction mixture was allowed to warm gradually to room temperature overnight and then partitioned with aqueous 5% NaOH (200 mL) and separated. The aqueous layer was extracted with Et2O and the combined organics were dried (Na2SO4), filtered, and evaporated to afford crude furfuryl dithiane (85 g, 0.457 mol, 94.8% yield), which was taken on to the next step without further purification. 1H NMR: δ 7.38 (m, 1H), 6.40 (m, 1H), 6.35 (m, 1H), 5.23 (s, 1H, —SH), 2.97 (m, 4H), 2.19–2.10 (m, 1H), 2.05–1.94 (m, 1H). 13C NMR: δ 152.2, 142.7, 111.0, 108.3, 42.5, 30.7, 25.7.

reactant | 2-furfuryl-1,3-dithiane Furfural | 0.4825 mol, 40 mL | C(C1=CC=CO1)C1SCCCS1.C(C1=CC=CO1)=O
reactant | 1,3-propanedithiol | 0.482 mol, 48.5 mL, 1 eq | C(CCS)S | C3H8S2
reactant | TMSCl | C[Si](C)(C)Cl | C3H9ClSi
solvent | CHCl3 | 400 mL | C(Cl)(Cl)Cl | CHCl3
product | furfuryl dithiane | 0.457 mol, 85 g, 94.8% yield | C(C1=CC=CO1)C1SSCCC1 | C9H12OS2
